US07423047B2
2-[4-(5,5-Dimethyl-1,3,2-dioxaborinan-2-yl)phenyl]propan-2-ol
A mixture of 2-(4-bromophenyl)propan-2-ol (3.50 g, 16.3 mmol), bis(neopentylglycolato)diboron (4.05 g, 17.93 mmol), KOAc (2.40 g, 24.45 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) (665 mg, 0.815 mmol) in DMF (25 mL) was heated at 60° C. for 18 h. The DMF was removed in vacuo and the residue azeotroped with toluene (×3). The residue was dissolved in Et2O, filtered, and the filtrated concentrated in vacuo to give the title compound as a brown solid (3.08 g). δH (CDCl3) 7.70 (2H, d, J 9.8 Hz), 7.41 (2H, d, J 9.8 Hz), 3.69 (4H, s), 1.51 (6H, s), 0.95 (6H, s).

reactant | 2-(4-bromophenyl)propan-2-ol | 16.3 mmol, 3.50 g | BrC1=CC=C(C=C1)C(C)(C)O | C9H11BrO
reactant | bis(neopentylglycolato)diboron | 17.93 mmol, 4.05 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | KOAc | 24.45 mmol, 2.40 g | CC(=O)[O-].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.815 mmol, 665 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[4-(5,5-Dimethyl-1,3,2-dioxaborinan-2-yl)phenyl]propan-2-ol | 3.08 g | CC1(COB(OC1)C1=CC=C(C=C1)C(C)(C)O)C | C14H21BO3
